US07227035B2
Synthesis of N-(2-Benzoyl-4-bromo-phenyl)-4-ethyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 138 mg of (2-amino-5-bromo-phenyl)-phenyl-methanone and 102 mg of 4-Ethyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.13 (t, 3H, J=7.6 Hz), 2.54 (q, 2H, 14.8 Hz, 7.6 Hz), 7.08 (d, 2H, J=8.8 Hz), 7.35–7.43 (m, 4H), 7.46 (d, 1H, J=2.4 Hz), 7.55–7.63 (m, 4H), 7.69 (d, 1H, J=8.8 Hz), 9.78 (s, 1H). m/z 445.3 (M++1).

reactant | (2-amino-5-bromo-phenyl)-phenyl-methanone | 138 mg | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 4-Ethyl-benzenesulfonyl chloride | 102 mg | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
product | N-(2-Benzoyl-4-bromo-phenyl)-4-ethyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Br)NS(=O)(=O)C1=CC=C(C=C1)CC | C21H18BrNO3S
